US09422331B2
To a rt solution of tert-butyl methyl((S)-1-((2S,3S)-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl)carbamate (141 mg, 284 μmol) in DMF (710 μl) was added 1-(chloromethyl)-2-methoxynaphthalene (64.6 mg, 312 μmol), cesium carbonate (111 mg, 341 μmol), and sodium iodide (51.1 mg, 341 μmol). The reaction was stirred at rt for 16 h, then diluted with EtOAc, washed with H2O and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(S)-1-((3S,4S)-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (151 mg, 80%) as a white solid. MS m/z 689 (MNa)+.

reactant | tert-butyl methyl((S)-1-((2S,3S)-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl)carbamate | 284 μmol, 141 mg | CN(C(OC(C)(C)C)=O)[C@H](C(=O)N[C@@H]1C(NC2=C(N([C@H]1C)C(CS(=O)(=O)C)=O)C=CC=C2)=O)C | C22H32N4O7S
reactant | 1-(chloromethyl)-2-methoxynaphthalene | 312 μmol, 64.6 mg | ClCC1=C(C=CC2=CC=CC=C12)OC | C12H11ClO
reactant | cesium carbonate | 341 μmol, 111 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | 341 μmol, 51.1 mg | [I-].[Na+]
solvent | DMF | 710 μl | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl(S)-1-((3S,4S)-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 151 mg, 80% | COC1=C(C2=CC=CC=C2C=C1)CN1C2=C(N([C@H]([C@@H](C1=O)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)C)C(CS(=O)(=O)C)=O)C=CC=C2 | C34H42N4O8S
